US05739402
The starting material was a mixture of 2-propanone O-(2-hydroxybutyl)oxime and 2-propanone O-(2-hydroxy-1-ethylethyl)oxime in the ratio 96.7:3.3. Phenol was used in place of 4-chlorophenol, otherwise the procedure was as in Example 1. This resulted in O-(2-phenoxybutyl)hydroxylamine (yield: 50%) and O-(2-phenoxy-1-ethylethyl)hydroxylamine in the ratio 99.8:0.2.

reactant | 2-propanone O-(2-hydroxybutyl)oxime | OC(CON=C(C)C)CC | C7H15NO2
reactant | 2-propanone O-(2-hydroxy-1-ethylethyl)oxime | OCC(CC)ON=C(C)C | C7H15NO2
reactant | Phenol | C1(=CC=CC=C1)O | C6H6O
product | O-(2-phenoxybutyl)hydroxylamine | yield: 50% | O(C1=CC=CC=C1)C(CON)CC | C10H15NO2
